US07214824B2
2-(4-tert-Butylphenoxy)-N-{4-[(methylsulfonyl)amino]benzyl}acetamide
To a stirred pyridine (15 ml) suspension of N-[4-(aminomethyl)-phenyl]methane sulfonamide hydrochloride (376 mg, 1.59 mmol) was added (4-tert-butylphenoxy)acetic acid chloride (300 mg, 1.3 mmol) at 0° C. and the mixture was stirred for 1 hour at ambient temperature. The reaction was then partitioned with ethylacetate and 2M aqueous solution of hydrogen chloride and the organic layer was separated, washed with brine, dried over magnesium sulfate. Then, filtration to remove magnesium sulfate, evaporation under reduced pressure gave the residue, which was applied to a silica gel chromatography column and eluted with a volume mixture of hexane/ethylacetate (1/1 to 1/2) to furnish 240 mg (62% yield) of title compound as a white solid.

reactant | N-[4-(aminomethyl)-phenyl]methane sulfonamide hydrochloride | 1.59 mmol, 376 mg | Cl.NCC1=CC=C(C=C1)NS(=O)(=O)C
reactant | (4-tert-butylphenoxy)acetic acid chloride | 1.3 mmol, 300 mg | C(C)(C)(C)C1=CC=C(OCC(=O)Cl)C=C1 | C12H15ClO2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-tert-Butylphenoxy)-N-{4-[(methylsulfonyl)amino]benzyl}acetamide | 240 mg, 62% yield | C(C)(C)(C)C1=CC=C(OCC(=O)NCC2=CC=C(C=C2)NS(=O)(=O)C)C=C1 | C20H26N2O4S
